US06022492
Synthesis of 5-(2,3-difluoro-4-hydroxyphenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine
1.5 g of 10 percent palladium/charcoal and 0.1 g of 4-toluenesulfonic acid are added to a solution of 14 mmol of 5-(4-benzyloxy-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine in 200 ml of THF. The mixture is stirred at 50° C. under hydrogen in a suitable apparatus until the take-up of hydrogen is complete, the catalyst is filtered off, and the solvent is removed in vacuo. Purification by recrystallization from acetonitrile gives 4.0 g (73%) of a colorless solid, m.p. 150-155° C.

reactant | 4-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-(4-benzyloxy-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine | 14 mmol | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC)F)F | C28H27F2N3O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | palladium/charcoal | 1.5 g | [Pd] | Pd
product | 5-(2,3-difluoro-4-hydroxyphenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine | 4.0 g, 73% | FC1=C(C=CC(=C1F)O)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC | C21H21F2N3O2
